US05498786
Alternatively, the racemic hydroxyester (5.35 g, 26.5 mmol) can be dissolved in MeOH (24 mL) and H2O (56 mL) added. The enzyme was added (0.268 g, 5% by weight) and the pH adjusted by the addition of 1N NaOH. The reaction was stirred at ambient temperature for 55 hours by which time 15.0 mL of base had been added. Hexane (150 mL) was added in addition to Celite (2 g) and the reaction stirred for 0.25 hours. The reaction was filtered through Celite (6 g) and the filter washed with hexane (50 mL). The filter was washed with hexane (2×150 mL) and each of the hexane washes used to extract the aqueous methanol layer. The combined organic phase was washed with brine and dried (MgSO4) to obtain (R)-methyl 2-hydroxydecanoate (2.27 g, 0.011 mol, 43%): [α]D =-3.5° (c=1, MeOH).

reactant | H2O | 56 mL | O | H2O
reactant | NaOH | 1N | [OH-].[Na+]
reactant | Hexane | 150 mL | CCCCCC | C6H14
reactant | MeOH | 24 mL | CO | CH4O
product | (R)-methyl 2-hydroxydecanoate | 0.011 mol, 2.27 g, 43% | O[C@@H](C(=O)OC)CCCCCCCC | C11H22O3
